US07268147B2
N-(2-Hydroxybenzyl)-2-(3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxy-3-hydroxymethyl-phenyl)-ethylamino]-propyl}-phenyl)-acetamide
Prepared from 2-(3-{(2R)-2-[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-hydroxy3-hydroxymethyl-phenyl)-ethylamino]-propyl}-phenyl)-N-(2-hydroxy benzyl)-acetamide (Preparation 3) according to the method for example 1, using water instead of acetic acid as the co-solvent, to give the title compound as a white foam.

reactant | 2-(3-{(2R)-2-[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-hydroxy3-hydroxymethyl-phenyl)-ethylamino]-propyl}-phenyl)-N-(2-hydroxy benzyl)-acetamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C(C=CC1)CC(=O)NCC1=C(C=CC=C1)O)C)C1=CC(=C(C=C1)O)CO | C33H46N2O5Si
solvent | water | O | H2O
product | N-(2-Hydroxybenzyl)-2-(3-{(2R)-2-[(2R)-2-hydroxy-2-(4-hydroxy-3-hydroxymethyl-phenyl)-ethylamino]-propyl}-phenyl)-acetamide | OC1=C(CNC(CC2=CC(=CC=C2)C[C@@H](C)NC[C@@H](C2=CC(=C(C=C2)O)CO)O)=O)C=CC=C1 | C27H32N2O5
